US04382939
3-[2-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride
Prepared by the method described in Example 38 from 1,2,3,4-tetrahydro-8,9-diethoxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (35.9 g, 0.10 moles) and dimethylamine (50 g, 1.11 moles). The product is converted to the dihydrochloride with gaseous hydrogen chloride in methanol. An additional recrystallization from methanol/diethyl ether yielded the final product (6.8 g), mp 210° C. (dec.).

reactant | 1,2,3,4-tetrahydro-8,9-diethoxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.10 moles, 35.9 g | C(C)OC1=CC2=C(C=C1OCC)C1=C(CN(CC1)CC(C)=O)C(O2)=O | C19H23NO5
reactant | dimethylamine | 1.11 moles, 50 g | CNC | C2H7N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-[2-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 6.8 g | Cl.Cl.CN(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OCC)OCC)C)C | InChI=1S/C21H30N2O4.2ClH/c1-6-25-19-10-16-15-8-9-23(12-14(3)22(4)5)13-17(15)21(24)27-18(16)11-20(19)26-7-2;;/h10-11,14H,6-9,12-13H2,1-5H3;2*1H
